US05965730
2-Hydrazino-4-(3-hydroxymethyl-6,7-diethoxyisoquinolin-1-yl)pyridine and 2-(3,4,5-trimethoxybenzoyl)-3-thiophenecarboxylic acid are treated in the same manner as in Example 7-(4) to give 4-(3-hydroxymethyl-6,7-diethoxyisoquinolin-1-yl)-2-[7-(3,4,5-trimethoxyphenyl)thieno[2,3-d]pyridazin-4(5H)-on-5-yl]pyridine.

reactant | 2-Hydrazino-4-(3-hydroxymethyl-6,7-diethoxyisoquinolin-1-yl)pyridine | N(N)C1=NC=CC(=C1)C1=NC(=CC2=CC(=C(C=C12)OCC)OCC)CO | C19H22N4O3
reactant | 2-(3,4,5-trimethoxybenzoyl)-3-thiophenecarboxylic acid | COC=1C=C(C(=O)C=2SC=CC2C(=O)O)C=C(C1OC)OC | C15H14O6S
product | 4-(3-hydroxymethyl-6,7-diethoxyisoquinolin-1-yl)-2-[7-(3,4,5-trimethoxyphenyl)thieno[2,3-d]pyridazin-4(5H)-on-5-yl]pyridine | OCC=1N=C(C2=CC(=C(C=C2C1)OCC)OCC)C1=CC(=NC=C1)N1N=C(C2=C(C1=O)C=CS2)C2=CC(=C(C(=C2)OC)OC)OC | C34H32N4O7S
